US04788206
As in Example 115, (E)-5,5-bis(4-methylphenyl)-2,4-pentadienoic acid (7.25 g) and 4-nitrophenol (4.4 g) in dichloromethane (60 mL) was treated with 1,3-dicyclohexylcarbodiimide (5.36 g). The mixture was stirred at 0°-5° C. for 30 minutes and then at room temperature for 18 hours. After the usual work up, the ester was crystallized from 2-propanol to yield 8.9 g of (E)-5,5-bis(4-methylphenyl)-2,4-pentadienoic acid 4-nitrophenyl ester, mp 153.5°-154.5° C.

reactant | (E)-5,5-bis(4-methylphenyl)-2,4-pentadienoic acid | 7.25 g | CC1=CC=C(C=C1)C(=C/C=C/C(=O)O)C1=CC=C(C=C1)C | C19H18O2
reactant | 4-nitrophenol | 4.4 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1,3-dicyclohexylcarbodiimide | 5.36 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | (E)-5,5-bis(4-methylphenyl)-2,4-pentadienoic acid 4-nitrophenyl ester | 8.9 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C=C(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)=O | C25H21NO4
